US09085575B2
A solution of 350 mg (0.64 mmol) of tert-butyl 4-(1-amino-5-(4-methoxyphenyl)-6-oxo-6,7-dihydro-3H-benzo[f]pyrazolo[3,4-c][2,7]naphthyridin-9-yl)piperazine-1-carboxylate is dissolved in 15 ml of anhydrous dichloroethane. The reaction medium is cooled to −78° C. before the slow addition of 0.30 ml (3.23 mmol) of boron tribromide. The reaction medium is carried at reflux for 4 hours. Methanol (roughly 10 ml) is added at 0° C. and then the reaction medium is stirred at 40° C. for 1 hour. The solid formed is filtered under heat and then rinsed with diethyl ether. Recrystallization of the solid in isopropanol yields 0.26 g (80%) of 1-amino-5-(4-hydroxyphenyl)-9-(piperazin-1-yl)-3H-benzo[f]pyrazolo[3,4-c][2,7]naphthyridin-6(7H)-one hydrobromide in the form of a light orange solid.

reactant | tert-butyl 4-(1-amino-5-(4-methoxyphenyl)-6-oxo-6,7-dihydro-3H-benzo[f]pyrazolo[3,4-c][2,7]naphthyridin-9-yl)piperazine-1-carboxylate | 0.64 mmol, 350 mg | NC1=NNC=2N=C(C=3C(NC4=C(C3C21)C=CC(=C4)N4CCN(CC4)C(=O)OC(C)(C)C)=O)C4=CC=C(C=C4)OC | C29H31N7O4
reactant | boron tribromide | 3.23 mmol, 0.30 ml | B(Br)(Br)Br | BBr3
reactant | Methanol | roughly 10 ml | CO | CH4O
solvent | dichloroethane | 15 ml | ClC(C)Cl | C2H4Cl2
product | 1-amino-5-(4-hydroxyphenyl)-9-(piperazin-1-yl)-3H-benzo[f]pyrazolo[3,4-c][2,7]naphthyridin-6(7H)-one hydrobromide | 0.26 g, 80% | Br.NC1=NNC=2N=C(C=3C(NC4=C(C3C21)C=CC(=C4)N4CCNCC4)=O)C4=CC=C(C=C4)O | InChI=1S/C23H21N7O2.BrH/c24-21-19-17-15-6-3-13(30-9-7-25-8-10-30)11-16(15)26-23(32)18(17)20(27-22(19)29-28-21)12-1-4-14(31)5-2-12;/h1-6,11,25,31H,7-10H2,(H,26,32)(H3,24,27,28,29);1H
